US06462069B2
4-Acetyl-3-phenylsulfanyl-thiophene
Prepared from 3-bromo-4-phenylsulfanyl-thiophene in 66% yield according to the procedure for the preparation of 4-acetyl-3-bromo-thiophene. 1H NMR (300 MHz, CDCl3) δ8.09 (d, 1H, J=3.3 Hz), 7.57 (d, 2 H, J=7.2 Hz), 7.38-7.42 (m, 3H), 6.31 (d, 1H, J=3.3 Hz), 2.57 (s, 3H).

reactant | 3-bromo-4-phenylsulfanyl-thiophene | BrC1=CSC=C1SC1=CC=CC=C1 | C10H7BrS2
reactant | 4-acetyl-3-bromo-thiophene | C(C)(=O)C=1C(=CSC1)Br | C6H5BrOS
product | 4-Acetyl-3-phenylsulfanyl-thiophene | 66% yield | C(C)(=O)C=1C(=CSC1)SC1=CC=CC=C1 | C12H10OS2
